US08426411B2
To a solution of N-((1S,3S,4R)-3-(3-allyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-ethylcyclopentyl)cyclopropanesulfonamide (0.17 g, 0.299 mmol, prepared using H with Preparation #12, Preparation #Z.1, HATU and DIEA, and Q with Lawesson's reagent and mercury (II) trifluoroacetate) in 1,4-dioxane (5 mL) and water (1.7 mL) was added sodium periodate (0.26 g, 1.2 mmol) followed by osmium tetroxide (4 wt % in water, 0.117 mL, 0.015 mmol). After about 48 h at ambient temperature, the reaction mixture was diluted with water (about 50 mL) and EtOAc (30 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concd in vacuo. The crude aldehyde was dissolved in EtOH (10 mL) and NaBH4 (0.023 g, 0.599 mmol) was added to the reaction mixture. After about 2 h at ambient temperature, HCl (1 N aqueous, about 3 mL) was added. After stirring for about 30 min, the reaction mixture was concd in vacuo. The residue was partitioned between EtOAc (30 mL) and saturated aqueous NaHCO3 (30 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concd in vacuo. The crude alcohol was dissolved in 1,4-dioxane (10 mL) and NaOH (2 N aqueous, 1.5 mL, 2.99 mmol) was added. The reaction mixture was heated to about 80° C. After about 4 h, the reaction mixture was cooled to ambient temperature and diluted with EtOAc (30 mL) and saturated aqueous NH4Cl (30 mL). The organic layer was separated, concd in vacuo, and purified by chromatography on silica gel eluting with 10-50% MeCN in DCM to provide N-((1S,3R,4S)-3-ethyl-4-(3-(hydroxymethyl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.007 g, 6%) as a yellow solid: LC/MS (Table 1, Method a) Rt=1.59 min; MS m/z: 404 (M+H)+.

reactant | N-((1S,3S,4R)-3-(3-allyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-ethylcyclopentyl)cyclopropanesulfonamide | 0.299 mmol, 0.17 g | C(C=C)C=1N=C(N2C1C=NC1=C2C=CN1S(=O)(=O)C1=CC=C(C)C=C1)[C@H]1C[C@H](C[C@H]1CC)NS(=O)(=O)C1CC1 | C28H33N5O4S2
reactant | sodium periodate | 1.2 mmol, 0.26 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | NaBH4 | 0.599 mmol, 0.023 g | [BH4-].[Na+]
reactant | HCl | 1 N, about 3 mL | Cl | ClH
reactant | NaOH | 2.99 mmol, 2 N, 1.5 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.7 mL | O | H2O
solvent | water | about 50 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | NH4Cl | 30 mL | [NH4+].[Cl-]
catalyst | osmium tetroxide | 0.015 mmol, 0.117 mL | [Os](=O)(=O)(=O)=O
product | N-((1S,3R,4S)-3-ethyl-4-(3-(hydroxymethyl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 0.007 g, 6% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NC(=C2N1C1=C(N=C2)NC=C1)CO)NS(=O)(=O)C1CC1 | C19H25N5O3S
